Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea/emesis/diarrhea
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ with no PMH, transferred here from ___ for concern of 
detox. Patient was admitted there, has an extensive prior 
history of benzo abuse with Xanax, valium, recently treated 
inpatient. She was in CT at a casino to celebrate her birthday 
and overdosed. She says that she took Xanax (has been taking 
since ___ last year), cocaine snorted 1 gram, Percocet 12 pills, 
oxocydone, 30 pills, 1 bottle of captain ___. Per report "I 
died and took 4 narcans" She went to hospital in ___, was 
medically cleared and then was sent to ___. Patient 
states that she began to feel ill on ___ with  myalgias, 
fevers, sore throat (no cough, rhinorrhea). This was later 
followed by nausea/emesis, then diarrhea. No abdominal pain, 
dysuria or vaginal discharge. Since being in the ED, her N/V 
have improved and she is tolerating POs. She is still having 
diarrhea and some sore throat pain. 

Of note, she states has never been sectioned or inpatient detox 
before. Per report, she has prior marijuana history, benzo, 
opiates, and cocaine. Per report one seizure where she 
overdosed, and has overdosed may times.  

In the ED, initial vitals: 98.2 68 108/60 18 98% RA 
Labs were significant for WBC 12.6 (90.1%N), normal chem-7, UA 
positive for leuks, blood,ketones, urine/serum tox negative, 
negative hcg
EKG showed sinus rhythm with TWI in V2-V3.   
In the ED, she received:
___ 20:08 IV Ondansetron 4 mg 
___ 20:08 IVF 1000 mL NS 1000 mL  
___ 20:43 IV Ondansetron 4 mg   
___ 20:54 IV FoLIC Acid 1 mg  
___ 21:27 IV Thiamine 100 mg   
___ 23:03 IV Ondansetron 4 mg 
___ 23:18 IV Lorazepam 1 mg   
___ 09:30 PO Ondansetron ODT 4 mg 

On arrival, HPI as above. She denies any suicidal or homicidal 
ideation. 
 
ROS:  
As per HPI; Remaining ROS negative
 
Past Medical History:
Polysubstance abuse and overdose
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION EXAM:
VS:  98.6 124/65 76 17 100RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
enlarged bilateral pharyngeal tonsils without exudate. 
NECK: Supple without LAD. No tender, enlarged LNs palpated.
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE EXAM:
VS: 97.9 115/52 60 16 93RA
GEN: Alert, no acute distress
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor
PULM: no increased work of breathing
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: Moving all extremities
 
Pertinent Results:
ADMISSION EXAM:

___ 05:05PM BLOOD WBC-12.6* RBC-3.74* Hgb-11.9 Hct-34.8 
MCV-93 MCH-31.8 MCHC-34.2 RDW-12.5 RDWSD-42.5 Plt ___
___ 05:05PM BLOOD Neuts-90.1* Lymphs-4.4* Monos-4.6* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-11.32* AbsLymp-0.55* 
AbsMono-0.58 AbsEos-0.00* AbsBaso-0.01
___ 05:05PM BLOOD Glucose-139* UreaN-13 Creat-0.6 Na-133 
K-3.8 Cl-96 HCO3-24 AnGap-17
___ 05:05PM BLOOD Calcium-9.7 Phos-3.2 Mg-1.7
___ 05:05PM BLOOD HCG-<5
___ 05:05PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

PERTINENT LABS:
___ 07:39AM BLOOD Lipase-19
___ 07:39AM BLOOD ALT-23 AST-30 AlkPhos-65 TotBili-0.3

DISCHARGE LABS:
___ 06:00AM BLOOD WBC-9.4 RBC-3.77* Hgb-11.7 Hct-35.4 
MCV-94 MCH-31.0 MCHC-33.1 RDW-12.8 RDWSD-43.9 Plt ___
___ 06:00AM BLOOD Glucose-99 UreaN-12 Creat-0.7 Na-137 
K-3.9 Cl-103 HCO3-24 AnGap-14
___ 06:00AM BLOOD Calcium-9.0 Phos-3.9 Mg-2.0

URINE: 
___ 09:45PM URINE Color-Yellow Appear-Cloudy Sp ___
___ 09:45PM URINE Blood-MOD Nitrite-NEG Protein-30 
Glucose-NEG Ketone-80 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 09:45PM URINE RBC-17* WBC-15* Bacteri-FEW Yeast-NONE 
Epi-38
___ 09:45PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

MICROBIOLOGY: **FINAL REPORT ___
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

STOOL VIRAL MOLECULAR NoroGI -  negative NoroGII - negative
___ 20:___ year-old female with polysubstance abuse with recent overdose 
who presents with acute onset nausea/vomiting/diarrhea, likely 
viral gastroenteritis. Norovirus PCR negative. LFTs/lipase were 
negative. She was treated symptomatically with zofran, compazine 
and intravenous IVF and gradually improved. Urine hcg was 
negative. Abdominal exam remained benign and no imaging was 
performed. Urine culture on discharge was contaminated. 

TRANSITIONAL ISSUES:
==================
-Discharged with Rx for Zofran, as she may have mild nausea for 
the next ___ hours
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 50 mg PO DAILY 
2. TraZODone 50 mg PO QHS:PRN insomnia 
3. Ibuprofen 400 mg PO Q4H:PRN pain 
4. Milk of Magnesia 30 mL PO QHS:PRN constipation 
5. Mylanta 30 ml oral Q4H:PRN dyspepsia 
6. HydrOXYzine 50 mg PO Q6H:PRN anxiety 

 
Discharge Medications:
1. Milk of Magnesia 30 mL PO QHS:PRN constipation 
2. Mylanta 30 ml oral Q4H:PRN dyspepsia 
3. Sertraline 50 mg PO DAILY 
4. TraZODone 50 mg PO QHS:PRN insomnia 
5. HydrOXYzine 50 mg PO Q6H:PRN anxiety 
6. Ibuprofen 400 mg PO Q4H:PRN pain 
7. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Q8H PRN Disp #*12 
Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis: viral gastroenteritis
Secondary diagnosis: polysubstance abuse with recent overdose
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted for nausea, vomiting, diarrhea, which we 
believe to be from a virus. We gave you medication for nausea 
and intravenous fluids for hydration. You improved while you 
were here and should continue to improve. You may have loose 
stools for a couple of more days, but this should resolve.  

On behalf of your ___ team,
We wish you all the best
 
Followup Instructions:
___